US08563505B2
Magnesium (0.513 g, 21.11 mmol) was stirred in a round bottom flask under nitrogen for 30 min. to cause scratching of the surface of the magnesium turnings. 10 mL of THF was added to the magnesium turnings and stirred for an additional 30 min. 3-bromo-3′-vinylbiphenyl (5.21 g, 20.10 mmol) in THF (100 mL), was added in dropwise at reflux with vigorous stirring. The Grignard solution was added to a solution of (S)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-oxopyrrolidine-1,2-dicarboxylate (5.78 g, 20.11 mmol) in DCM (110 mL) at 0° C. and stirred for 1 hr and then quenched with saturated NH4Cl solution. The aqueous layer was extracted with DCM and the combined organics were dried, filtered and evaporated to give crude material. The crude material was purified by flash chromatography on the Biotage (5-40% EtOAc:Hex) to give (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-hydroxy-4-(3′-vinylbiphenyl-3-yl)pyrrolidine-1,2-dicarboxylate (2.9 g, 6.20 mmol, 31% yield) as a yellow foam. 1H NMR (500 MHz, CHLOROFORM-d) δ 0.05 (d, J=2.44 Hz, 9H) 0.99 (dd, J=9.77, 7.32 Hz, 1H) 1.04 (dd, J=9.61, 7.17 Hz, 1H) 1.27 (t, J=7.17 Hz, 1H) 2.38-2.53 (m, 1H) 2.66-2.82 (m, 1H) 3.67-3.83 (m, 1H) 3.82-3.89 (m, 3H) 3.96-4.09 (m, 1H) 4.17-4.32 (m, 2H) 4.52-4.69 (m, 1H) 5.32 (d, J=10.99 Hz, 1H) 5.83 (d, J=17.40 Hz, 1H) 6.80 (dd, J=17.55, 10.83 Hz, 1H) 7.39-7.46 (m, 2H) 7.46-7.52 (m, 3H) 7.55 (ddd, J=4.58, 2.14, 1.83 Hz, 1H) 7.61 (br. s., 1H) 7.73 (s, 1H). LCMS: rt=2.32 min. [M+H]+=468; Phenomenex-Luna C-18 (5μ) (3.0×50 mm); Solvent A=10% acetonitrile—90% water—0.1% TFA, Solvent B=90% acetonitrile—10% water—0.1% TFA; gradient 0% to 100% solvent B over 2 min. and then hold for 1 min.; 4 mL/min; inj. vol.=5 uL; wavelength=220.

reactant | Magnesium | 21.11 mmol, 0.513 g | [Mg] | Mg
reactant | 3-bromo-3′-vinylbiphenyl | 20.10 mmol, 5.21 g | BrC=1C=C(C=CC1)C1=CC(=CC=C1)C=C | C14H11Br
reactant | (S)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-oxopyrrolidine-1,2-dicarboxylate | 20.11 mmol, 5.78 g | O=C1C[C@H](N(C1)C(=O)OCC[Si](C)(C)C)C(=O)OC | C12H21NO5Si
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | DCM | 110 mL | C(Cl)Cl | CH2Cl2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2S,4R)-2-methyl 1-(2-(trimethylsilyl)ethyl) 4-hydroxy-4-(3′-vinylbiphenyl-3-yl)pyrrolidine-1,2-dicarboxylate | 6.20 mmol, 2.9 g, 31% yield | O[C@]1(C[C@H](N(C1)C(=O)OCC[Si](C)(C)C)C(=O)OC)C=1C=C(C=CC1)C1=CC(=CC=C1)C=C | C26H33NO5Si
